US05710314
2 ml of 33% methylamine solution (in ethanol) are added to a solution of 1.02 g of 2-(2-methylphenoxymethyl)-phenylglyoxalic acid methyl ester O-fluoromethyl oxime in 30 ml of methanol and the reaction mixture is left to stand for 24 hours. Concentration by evaporation is then carried out in vacuo and the concentrate is crystallised from hexane. Pure 2-(2-methylphenoxymethyl)-phenylglyoxalic acid N-methylamide O-fluoromethyl oxime is obtained; m.p. 86°-88° C.

reactant | methylamine | 2 ml | CN | CH5N
reactant | 2-(2-methylphenoxymethyl)-phenylglyoxalic acid methyl ester O-fluoromethyl oxime | 1.02 g | FCON=C(C(=O)OC)C1=C(C=CC=C1)COC1=C(C=CC=C1)C | C18H18FNO4
solvent | methanol | 30 ml | CO | CH4O
product | 2-(2-methylphenoxymethyl)-phenylglyoxalic acid N-methylamide O-fluoromethyl oxime | FCON=C(C(=O)NC)C1=C(C=CC=C1)COC1=C(C=CC=C1)C | C18H19FN2O3
